US05849764
Step 12.1C {2-[2-(3,5-dimethylphenyl)-5-(methoxymethylcarbamoyl)-1H-indol-3-yl]-ethyl}(4-pyridin-4-yl-butyl)carbamic acid tert-butyl ester
To a solution of 3-{2-[tert-butoxycarbonyl-(4-pyridin-4-yl-butyl)amino]ethyl}-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid (1.44 g in 25 mL N,N-dimethylformamide) at 0° C. was added 540 mg of 1-hydroxybenzotriazole (HOBt) followed by 0.44 mL 4-methylnorpholine and 365 mg N,O-dimethylhydroxylamine hydrochloride. After 15 minutes, 815 mg 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) was added and the mixture allowed to warm to room temperature. After 3 days reaction time, an additional portion of 540 mg of HOBt, 0.44 mL 4-methylmorpholine, 365 mg N,O-dimethylhydroxylamine hydrochloride and 815 mg EDC were added. The reaction stopped after 4 days by concentration in vacuo and reconcentration from toluene to remove all volatiles. The residue was solvated in ethyl acetate and washed sequentially with saturated aqueous sodium bicarbonate and brine, then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 30:70; then 20:80; then 0:100) gave the title compound (1.4 g).

reactant | 3-{2-[tert-butoxycarbonyl-(4-pyridin-4-yl-butyl)amino]ethyl}-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid | 25 mL, 1.44 g | C(C)(C)(C)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=NC=C1 | C33H39N3O4
reactant | 1-hydroxybenzotriazole | 540 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 365 mg | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 815 mg | Cl.CN(CCCN=C=NCC)C
reactant | HOBt | 540 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.44 mL | CN1CCOCC1 | C5H11NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 365 mg | Cl.CNOC
reactant | EDC | 815 mg
product | {2-[2-(3,5-dimethylphenyl)-5-(methoxymethylcarbamoyl)-1H-indol-3-yl]-ethyl}(4-pyridin-4-yl-butyl)carbamic acid tert-butyl ester | 1.4 g | C(C)(C)(C)OC(N(CCCCC1=CC=NC=C1)CCC1=C(NC2=CC=C(C=C12)C(NCOC)=O)C1=CC(=CC(=C1)C)C)=O | C35H44N4O4
